Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine-Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl / Levaquin / Aztreonam / moxifloxacin / 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old F with a PMH significant for 
JAK2-positive myeloproliferative disorder, AML status post 
allogeneic stem cell transplant (___), complicated by graft 
versus host disease, including pulmonary GVHD, thoracic aortic 
aneurysm, MI status post CABG, afib, CHF, asthma, who is 
presenting with worsening dyspnea. 

She reports a 3 week history of of waxing and waning shortness 
of breath, for which she sees pulmonologist ___. 
Outpatient workup has been notable for decreasing DLCO on PFTs 
and very mild increase in mosaicism in LLL and RLL basilar 
interstitial markings on CT performed on ___. Her breathing 
got acutely worse yesterday since dinnertime. She reports a 
tightness across her chest, and it feels somewhat like asthma 
but was unimproved with her albuterol. She reports, in general, 
she has felt more winded since ___, the day after her CT. 

She is currently on Xarelto for atrial fibrillation and is 
compliant with that medication. She denies any leg swelling, any 
pleuritic chest pain, coughing, fevers, chills, congestion, sick 
contacts.

VSS. D-dimer negative. CXR normal. EKG atrial fibrillation, 
normal axis, normal QRS, no STEMI. ED exam is remarkable for 
irregularly irregular heartbeat, no wheezes noted to 
auscultation. No leg swelling or pain. 

Patient was admitted to ___ for further workup of dyspnea. 

 
Past Medical History:
- AML diagnosed ___ on routine bloodwork showing pancytopenia; 
bone marrow biopsy showed myelodysplasia without cytogenetic 
abnormalities  
- repeat bone marrow biopsy showed acute erythroleukemia  
- admitted ___ for induction 7+3 with cytarabine and 
idarubicin, day 14 marrow showed no blasts  
- ___ allogeneic transplantation from an HLA matched sibling 
donor with pentostatin/TBI in ___ c/b mild GVHD  
- post-transplant course complicated by STEMI ___ with DES to 
RCA ___ and CABG (___-LAD) ___  
- complicated by GVHD of the skin and lungs

OTHER MEDICAL HISTORY:  
- CAD s/p STEMI ___ with DES to RCA ___ and CABG (___-LAD) 
___  
- Afib on Xarelto
- Diverticulitis, hx of perforated diverticulum ___ course 
complicated by multiple abdominal abscesses; sigmoidostomy with 
___ pouch and colostomy; reversed ___  
- CHF with EF 40-45%  
- Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus  
- Diverticulosis  
- Occasional bronchospasm  
- History of SVC clot ___ PORT (s/p course of lovenox)  
- History of C.Diff ___ & ___  
- History of VRE  
- History of Shingles  
- History of Asthma  
- basal cell carcinoma-s/p electrodessication and curettage on  
___  
- tonsillectomy at the age of ___;  
- D&C for question of some polyps back in ___  
- Hospitalization for pneumonia ___ - ___  
- ADRENAL INSUFFICIENCY   
 
 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
====================== 
Vitals: 97.8PO 133 / 64 79 18 94 RA 
GENERAL: NAE, breathing comfortably 
HEENT:  oropharynx clear without erythema or exudates
NECK: no cervical lymphadenopathy  
LUNGS: CTAB
HEART:  irregular rate and rythm
ABD:  +BS, soft, NT/ND
EXT:  no cyanosis, clubbing, or edema
SKIN:  warm, well-perfused
NEURO:  Moving all four extremities with purpose
ACCESS:  PIVs

DISCHARGE PHYSICAL EXAM
======================
Vitals: ___ 0359 Temp: 97.8 PO BP: 125/71 HR: 61 RR: 18 O2 
sat: 96% O2 delivery: Ra  
GENERAL: Older woman, pleasant affect, in NAD, breathing 
comfortably while sitting in bed
HEENT:  MMM 
LUNGS: CTAB - no wheezes, rhonchi, or rales
HEART:  Irregularly irregular, no murmurs, rubs, or gallops
ABD:  +BS, soft, NT/ND
EXT:  no cyanosis, clubbing, or edema
SKIN:  warm, well-perfused
NEURO:  Moving all four extremities with purpose, no facial 
asymmetry or dysarthria, normal gait
ACCESS:  PIVs

 
Pertinent Results:
ADMISSION LAB RESULTS
===================
___ 01:20AM BLOOD WBC-10.7* RBC-3.99 Hgb-11.7 Hct-37.8 
MCV-95 MCH-29.3 MCHC-31.0* RDW-16.8* RDWSD-58.4* Plt ___
___ 01:20AM BLOOD Glucose-145* UreaN-16 Creat-1.0 Na-136 
K-4.8 Cl-102 HCO3-18* AnGap-16
___ 01:20AM BLOOD cTropnT-<0.01 proBNP-909*
___ 01:20AM BLOOD D-Dimer-357

DISCHARGE LAB RESULTS
====================
___ 07:25AM BLOOD WBC-10.9* RBC-3.81* Hgb-11.1* Hct-34.9 
MCV-92 MCH-29.1 MCHC-31.8* RDW-16.6* RDWSD-55.0* Plt ___
___ 07:25AM BLOOD Neuts-58.1 ___ Monos-10.6 Eos-1.8 
Baso-0.6 NRBC-0.3* Im ___ AbsNeut-6.32* AbsLymp-3.08 
AbsMono-1.15* AbsEos-0.20 AbsBaso-0.06
___ 07:25AM BLOOD ___ PTT-27.1 ___
___ 07:25AM BLOOD Glucose-146* UreaN-23* Creat-1.0 Na-143 
K-4.9 Cl-103 HCO3-23 AnGap-17
___ 07:25AM BLOOD ALT-14 AST-12 LD(LDH)-219 AlkPhos-59 
TotBili-0.5
___ 07:25AM BLOOD Albumin-3.6 Calcium-9.4 Phos-3.6 Mg-1.9

IMAGING
=======
___ Echo
The left atrial volume index is severely increased. Left 
ventricular wall thicknesses are normal. The left ventricular 
cavity size is normal. Overall left ventricular systolic 
function is moderately depressed (LVEF = 35%) secondary to 
hypokinesis of the inferior septum and posterior wall and 
akinesis of the inferior free wall. The right ventricular free 
wall thickness is normal. Right ventricular chamber size is 
normal with depressed free wall contractility. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. Trace aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. An eccentric, 
posteriorly directed jet of at least moderate (2+) mitral 
regurgitation is seen. Due to the eccentric nature of the 
regurgitant jet, its severity may be significantly 
underestimated (Coanda effect). The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
mitral regurgitation is increased.

___ Stress INTERPRETATION: This ___ year old IDDM woman with 
h/o CAD s/p MI and CABG in ___, asthma and CHF was referred to 
the lab for evaluation. She was infused with 0.4 mg of 
regadenoson over 20 seconds. No chest, arm, neck or back 
discomfort reported. In the setting of baseline NSSTTWs, at 
___ seconds post infusion a 0.5 mm horizontal ST segment 
depression with TWI noticed in the inferior leads and V4-V6. 
These ST segment changes returned to baseline by 2 minutes 
post-infusion with 
IV administration of 125 mg of aminophylline. Rhythm was sinus 
with rare 
isolated VPBs and occasional isolated APBs. Appropriate HR and 
BP 
response to the infusion. 
  
IMPRESSION : Non-specific EKG changes in the absence of anginal 
type 
symptoms. Nuclear report sent separately. 

___ Myocardial Perfusion Study IMPRESSION: 1. Severe fixed 
defect in the inferior wall and moderate fixed 
defect in the apex is identified. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old F with a PMH significant for 
JAK2-positive myeloproliferative disorder, AML status post 
allogeneic stem cell transplant (___), complicated by graft 
versus host disease, including pulmonary GVHD, thoracic aortic 
aneurysm, MI status post CABG, afib, CHF, asthma, who presented 
with worsening dyspnea. 

#Dsypnea
Patient denies infectious symptoms, but does have a mild white 
count. D-dimer negative and patient has been compliant with 
xarelto. Trop negative. Patient doesn't appear to be volume up, 
and BNP mildly elevated to 900. CXR without evidence of volume 
overload. Echo with no new focal wall motion abnormalities. 
Patient was continued on home Advair, singulair, umeclidinium. 
Prednisone was increased to 30mg daily for a 5 day burst. The 
patient underwent a nuclear stress test which demonstrated 
"severe fixed defect in the inferior wall and moderate fixed 
defect in the apex is identified" which was consistent with her 
known cardiac disease and no inducible ischemia or wall motion 
abnormality. 
 
#CAD
No troponin elevation. No concerning EKG changes. Echo with no 
new focal wall motion abnormalities. Patient was continued on 
home aspirin and statin. Stress test negative as above.

#AML s/p allogeneic stem cell transplant
Continued azithromycin ___, hydroxyurea ___, acyclovir

#Afib
Continued rivaroxaban, continued metoprolol BID

TRANSITIONAL ISSUES
==================

Patient to continue prednisone 30mg QD for 2 more days for a 
total of 5 days (Last day ___. If patient is still having 
symptoms, patient instructed to call Dr. ___ for 
another 5 day supply.

#HCP/CONTACT: ___ (husband) ___  
#CODE STATUS: Full (presumed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Calcium Carbonate 1500 mg PO DAILY 
5. Levothyroxine Sodium 25 mcg PO DAILY 
6. LORazepam 0.5 mg PO Q4H:PRN nausea, anxiety, insomnia 
7. Metoprolol Tartrate 25 mg PO DAILY:PRN as needed for 
symptomatic palpitations 
8. Montelukast 10 mg PO DAILY 
9. PredniSONE 3 mg PO DAILY 
10. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
11. Azithromycin 250 mg PO MWF 
12. Cyanocobalamin 500 mcg PO DAILY 
13. esomeprazole magnesium 20 mg oral BID 
14. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
15. Hydroxyurea 500 mg PO 3X/WEEK (___) 
16. MetFORMIN (Glucophage) 500 mg PO BID 
17. Rivaroxaban 20 mg PO DAILY 
18. umeclidinium 62.5 mcg/actuation inhalation DAILY 
19. Vitamin D ___ UNIT PO DAILY 
20. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
21. Metoprolol Tartrate 25 mg PO BID 

 
Discharge Medications:
1.  PredniSONE 30 mg PO DAILY Duration: 2 Days 
RX *prednisone 10 mg 3 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0 
2.  Rivaroxaban 20 mg PO DINNER  
3.  Acyclovir 400 mg PO Q12H  
4.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 80 mg PO QPM  
7.  Azithromycin 250 mg PO MWF  
8.  Calcium Carbonate 1500 mg PO DAILY  
9.  Cyanocobalamin 500 mcg PO DAILY  
10.  esomeprazole magnesium 20 mg oral BID  
11.  Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies  

12.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
13.  Hydroxyurea 500 mg PO 3X/WEEK (___)  
14.  Levothyroxine Sodium 25 mcg PO DAILY  
15.  LORazepam 0.5 mg PO Q4H:PRN nausea, anxiety, insomnia  
16.  MetFORMIN (Glucophage) 500 mg PO BID  
17.  Metoprolol Tartrate 25 mg PO BID  
18.  Montelukast 10 mg PO DAILY  
19.  umeclidinium 62.5 mcg/actuation inhalation DAILY  
20.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Graft versus Host disease
Pneumonitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized at ___. 

Why did you come to the hospital?
=========================
- You came to the hospital because you were having worsening 
shortness of breath. 

What did we do for you?
=================
- You had an ultrasound of your heart (echocardiogram), which 
did not show any new changes from your last echocardiogram. 
-We did a stress test of your heart which did not show anything 
worrisome
- We gave you an increased dose of steroids. 

What do you need to do?
==================
- It is important that you follow up with Dr. ___ Dr. 
___ information below). 

If you still feel short of breath after finishing your steroids 
(prednisone), please call Dr. ___ office to ask for another 
5 day supply.

It was a pleasure caring for you. We wish you the best!

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___